US07863271B2
Crude 5-fluoro-3-hydroxy-2-nitrobenzoic acid (2.60 g, 12.92 mmol), was suspended in CH3OH (50 mL) and cooled to 0° C. Thionyl chloride (9.4 ml, 129.26 mmol) was added drop wise at 0° C. The mixture was allowed to warm to ambient temperature then heated to reflux for 17 h. The reaction mixture was allowed to cool to ambient temperature, and the solvent removed under reduced pressure. The crude material was purified by column chromatography (silica gel, 0 to 20% CH3OH in CH2Cl2) to afford methyl 5-fluoro-3-hydroxy-2-nitrobenzoate (1.15 g, 41%) as a white solid. 1H NMR and MS consistent.

reactant | 5-fluoro-3-hydroxy-2-nitrobenzoic acid | 12.92 mmol, 2.60 g | FC=1C=C(C(=C(C(=O)O)C1)[N+](=O)[O-])O | C7H4FNO5
reactant | Thionyl chloride | 129.26 mmol, 9.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | CH3OH | 50 mL | CO | CH4O
product | methyl 5-fluoro-3-hydroxy-2-nitrobenzoate | 1.15 g, 41% | FC=1C=C(C(=C(C(=O)OC)C1)[N+](=O)[O-])O | C8H6FNO5
